US07935699B2
In a Parr shaker bottle was placed 1-(2-methyl-2-triethylsilanyloxy-propyl)-3-nitro-1H-pyrazole (197 mg, 0.65 mmol), 10% palladium on activated carbon (25 mg) and ethanol (10 mL). The bottle was then placed on the Parr shaker at 50 psi of hydrogen pressure for 1 h. The reaction was then filtered through a pad of celite and washed with ethanol, concentration in vacuo afforded 1-(2-methyl-2-triethylsilanyloxy-propyl)-1H-pyrazol-3-ylamine (191 mg, 100% (wet with some ethanol)) as a clear colorless oil: ES-HRMS m/e calcd for C13H27N3OSi (M+H)+ 270.1996, observed 270.1995; 1H NMR (300 MHz, CDCl3) δ ppm 0.56 (q, J=7.9 Hz, 6H, 3×SiCH2), 0.92 (t, J=7.9 Hz, 9H, 3×CH3), 1.21 (s, 6H, 2×CH3), 2.63 (br.s., 2H, NH2), 3.83 (s, 2H, NCH2), 5.59 (d, J=2.4 Hz, 1H, Ar), 7.22 (d, J=2.4 Hz, 1H, Ar).

reactant | 1-(2-methyl-2-triethylsilanyloxy-propyl)-3-nitro-1H-pyrazole | 0.65 mmol, 197 mg | CC(CN1N=C(C=C1)[N+](=O)[O-])(C)O[Si](CC)(CC)CC | C13H25N3O3Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 25 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(2-methyl-2-triethylsilanyloxy-propyl)-1H-pyrazol-3-ylamine | CC(CN1N=C(C=C1)N)(C)O[Si](CC)(CC)CC | C13H27N3OSi
